US08420670B2
4-(3,4-Dichlorobenzylamino)-2-methylquinolin-8-ol
4-Chloro-8-hydroxy-2-methylquinoline (500 mg, 2.58 mmole) and 3,4-dichlorobenzylamine (910 mg, 5.16 mmole) in dimethylsulfoxide (5 mL) were stirred at 140° C. for 90 min in a microwave oven. Water was added and the mixture was decanted to obtain an oily residue. The residue was washed with ethyl acetate to give a brownish solid (350 mg, 41%). ESI-MS [M+H]+=333.1/337.0 calculated for C17H14Cl2N2O=333 g/mole

reactant | 4-Chloro-8-hydroxy-2-methylquinoline | 2.58 mmole, 500 mg | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
reactant | 3,4-dichlorobenzylamine | 5.16 mmole, 910 mg | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-(3,4-Dichlorobenzylamino)-2-methylquinolin-8-ol | 350 mg, 41% | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)O)C)C=CC1Cl | C17H14Cl2N2O
